US06828116B1
2-Methylbenzoxazole (yellow) was distilled under vacuum to give a colourless liquid (33 ml). 4-(Bromomethyl)phenylacetic acid (20 g, 87.3 mmol) and 2-methylbenzoxazole (distilled, 33 ml, 278 mmol) were dissolved in 1,2-dichlorobenzene (70 ml). The reaction mixture was heated at 80° C. for 2.5 days to produce a thick yellow precipitate. The reaction mixture was then cooled to room temperature, the precipitate collected via filtration and washed with 1,2-dichlorobenzene (3×100 ml) and diethyl ether (4×200 ml). The cream solid collected was dried in vacuo to give 3-(4-(carboxymethyl) benzyl]-2-methyl-1,3-benzoxazol-3-ium bromide (20 g, 55.3 mmol, 63% yield). UV (methanol): λmax=277 nm. MS: m/z=282 (C17H16NO3=282.32). Normal phase TLC (ether) indicated that the starting 2-methylbenzoxazole had an Rf=0.9±0.05 and the product an Rf=0. 1H NMR (200 MHz-DMSO-d6): δ1.75 (s, 2H); 3.2 (s, 3H); 5.85 (s, 2H); 7.31 (d, 2H, J=6.8 Hz); 7.53 (d, 2H, J=6.8 Hz); 7.72 (m, 2H, J=6.3 Hz); 7.89 (d, 1H, J=8.3 Hz); 8.17 (d, 1H, J=7.3 Hz); 9.8 (s, 1H).

reactant | 4-(Bromomethyl)phenylacetic acid | 87.3 mmol, 20 g | BrCC1=CC=C(C=C1)CC(=O)O | C9H9BrO2
reactant | 2-methylbenzoxazole | 278 mmol, 33 ml | CC=1OC2=C(N1)C=CC=C2 | C8H7NO
solvent | 1,2-dichlorobenzene | 70 ml | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | 3-(4-(carboxymethyl) benzyl]-2-methyl-1,3-benzoxazol-3-ium bromide | 55.3 mmol, 20 g, 63% yield | [Br-].C(=O)(O)CC1=CC=C(C[N+]2=C(OC3=C2C=CC=C3)C)C=C1 | InChI=1S/C17H15NO3.BrH/c1-12-18(15-4-2-3-5-16(15)21-12)11-14-8-6-13(7-9-14)10-17(19)20;/h2-9H,10-11H2,1H3;1H
